US08802704B2
Step 1: 3-{[(2-hydroxyethyl)amino]methyl}benzonitrile
3-(Bromomethyl)benzonitrile (20.0 g, 0.125 mol) was added portion wise into a mixture of ethanolamine (11.4 g, 0.19 mol) and sodium bicarbonate (21.0 g, 0.25 mol) in ACN (200 mL) at 0° C. The resulting mixture was stirred for 4 hours. The reaction mixture was concentrated under vacuum. The residue was taken up with water and extracted with DCM (200 mL). The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by chromatography to afford the title compound as white solid (9.8 g, 54%). 1H NMR (DMSO-d6, 400 MHz) δ 7.76 (s, 1H), 7.67 (m, 2H), 7.51 (m, 1H), 4.47 (brs, 1H), 3.74 (s, 2H), 3.44 (m, 2H), 2.51 (m, 2H), 2.12 (brs, 1H).

reactant | 3-(Bromomethyl)benzonitrile | 0.125 mol, 20.0 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | ethanolamine | 0.19 mol, 11.4 g | C(O)CN | C2H7NO
reactant | sodium bicarbonate | 0.25 mol, 21.0 g | C([O-])(O)=O.[Na+]
solvent | ACN | 200 mL | C(C)#N | C2H3N
product | 3-{[(2-hydroxyethyl)amino]methyl}benzonitrile | 9.8 g, 54% | OCCNCC=1C=C(C#N)C=CC1 | C10H12N2O
